* Testbench: low-voltage (FVF-biased cascode) current mirror — gf180 (3.3 V)
* DUT subckt: Low_voltage_current_mirror IBIAS1 IBIAS2 GND IOUT1 IOUT2
*   Two internal flipped-voltage-follower branches turn the injected IBIAS1 /
*   IBIAS2 currents into the cascode and bottom gate biases; IOUT1/IOUT2 are
*   two cascoded nfet output branches that should each sink a copy of the
*   bias current with low compliance voltage.
*
* Functional check: inject IB into both bias ports, force both outputs, and
* verify each output sinks ~IB: err1/err2 are the relative errors of the two
* copies at a mid-rail output voltage (IOUT1 swept to also exercise
* compliance; IOUT2 held at the operating point).
*
* run_cell_sim.py injects the gf180 model setup and .includes the DUT
* netlist, so this file is stimulus + analysis ONLY.
.param VDD=3.3
.param IB=10u
.param VOP=1.65
* Ground rail.
Vgnd GND 0 DC 0
* Bias injections into the two FVF-based reference branches.
Ib1 0 IBIAS1 DC {IB}
Ib2 0 IBIAS2 DC {IB}
* Outputs: IOUT1 swept, IOUT2 pinned at the operating point.
Vout1 IOUT1 0 DC 0
Vout2 IOUT2 0 DC {VOP}
* DUT: IBIAS1 IBIAS2 GND IOUT1 IOUT2
X1 IBIAS1 IBIAS2 GND IOUT1 IOUT2 Low_voltage_current_mirror
.dc Vout1 0 {VDD} 0.02
* The output branches SINK current supplied by the Vout sources ->
* i(Vout*) negative; flip sign. AT literal 1.65 must match VOP above.
.measure dc iout1_raw FIND i(Vout1) AT=1.65
.measure dc iout2_raw FIND i(Vout2) AT=1.65
* Literal 10e-6 must match IB above.
.measure dc err1 param='(-iout1_raw - 10e-6)/10e-6'
.measure dc err2 param='(-iout2_raw - 10e-6)/10e-6'
.end
